US06498172B1
(3-{[Benzenesulfonyl-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step B was prepared from {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, of Step A, and benzenesulfonyl chloride following the method described in Example 3, Step B. 1H NMR (400 MHz, CDCl3) δ 8.78 (dd, 2H), 8.27 (d, 2H), 7.87 (m, 2H), 7.59-7.50 (m, 3H), 7.18 (m, 1H), 7.11 (m, 3H), 6.75 (d, 1H), 6.64 (d, 1H), 6.59 (s, 1H), 4.39 (s, 2H), 4.35 (s, 2H), 4.31 (s, 2H), 1.48 (s, 9H); MS 546 (M+1).

reactant | {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CC=N1)=O | C24H27N3O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (3-{[Benzenesulfonyl-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C1=CC=CC=C1)=O | C30H31N3O5S
